US07994185B2
Step B: methyl 2-fluoro-3-nitrobenzoate
2-Fluoro-3-nitrobenzoic acid (75 g) was dissolved in 300 ml of methanol, and then 20 ml of concentrated H2SO4 was added. The mixture was stirred at 70° C. overnight and cooled to rt, the resulting solid was filtered and washed with water (3×200 ml), to the filtered was added water (400 ml), the resulting precipitate was filtered and washed with water (2×100 ml) to afford another batch of product. The solid were combined and dried under vacuum to afford the title compound was obtained as a light yellow solid (78 g, 96%).

reactant | 2-Fluoro-3-nitrobenzoic acid | 75 g | FC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H4FNO4
reactant | H2SO4 | 20 ml | OS(=O)(=O)O | H2O4S
reactant | methanol | 300 ml | CO | CH4O
product | methyl 2-fluoro-3-nitrobenzoate | FC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C8H6FNO4
